US06982274B2
b; [3-(3-Fluorophenyl)-1H-5-indazolyl](phenyl)methanone
A total of 30 mg of tert-butyl 3-(3-fluorophenyl)-5-[hydroxy(phenyl)methyl]-1H-1-indazolecarboxylate as a starting material was oxidized by the procedure of Production Example I-4-c, was treated with 5 N hydrochloric acid by the procedure of Production Example I-25-b, to give 4 mg of the title compound as a colorless powder.

reactant | tert-butyl 3-(3-fluorophenyl)-5-[hydroxy(phenyl)methyl]-1H-1-indazolecarboxylate | 30 mg | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(C1=CC=CC=C1)O)C(=O)OC(C)(C)C | C25H23FN2O3
reactant | hydrochloric acid | 5 N | Cl | ClH
product | [3-(3-Fluorophenyl)-1H-5-indazolyl](phenyl)methanone | 4 mg | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)C1=CC=CC=C1 | C20H13FN2O
